### PR TITLE
[Merged by Bors] - feat(Data/Sym/Sym2): Multiplication as a function from `Sym2`

### PR DESCRIPTION
**Pull request by mans0954**
Used in #18578

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sym/Sym2.lean [hunk 1]
```diff
@@ -7,6 +7,7 @@ import Mathlib.Data.Finset.Prod
 import Mathlib.Data.Sym.Basic
 import Mathlib.Data.Sym.Sym2.Init
 import Mathlib.Data.SetLike.Basic
+import Mathlib.Algebra.Group.Action.Pi
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Sym2.lean:10]: Can you keep this alphabetical?

File: Mathlib/Data/Sym/Sym2.lean [hunk 2]
```diff
@@ -777,4 +778,21 @@ instance [Nontrivial α] : Nontrivial (Sym2 α) :=
...
 
+lemma smul {α R N} [SMul R N] (f : { f : α → α → R // ∀ a₁ a₂, f a₁ a₂ = f a₂ a₁ })
+    (g : { g : α → α → N // ∀ a₁ a₂, g a₁ a₂ = g a₂ a₁ }) :
+    Sym2.lift f • Sym2.lift g = Sym2.lift ⟨f.val • g.val, fun _ _ => by
+      rw [Pi.smul_apply', Pi.smul_apply', Pi.smul_apply', Pi.smul_apply', f.prop, g.prop]⟩ := by
+  ext ⟨i,j⟩
+  simp_all only [Pi.smul_apply', Sym2.lift_mk]
+
+/--
+`CommMagma.mul` as a function from `Sym2`.
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Sym2.lean:789]: What's `CommMagma.mul`?

File: Mathlib/Data/Sym/Sym2.lean [hunk 3]
```diff
@@ -777,4 +778,21 @@ instance [Nontrivial α] : Nontrivial (Sym2 α) :=
...
+-/
+def mul {R} [CommMagma R] (f : α → R) : Sym2 α → R :=
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Sym2.lean:791]: Shouldn't this rather be
```suggestion
def mul {M} [CommMagma M] (e : Sym2 M) : M :=
```

File: Mathlib/Data/Sym/Sym2.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Data/Sym/Sym2.lean:789]: I meant `CommMagma.toMul.mul`.

File: Mathlib/Data/Sym/Sym2.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Data/Sym/Sym2.lean:791]: Do you mean:
```
/--
`CommMagma.toMul.mul` as a function from `Sym2`.
-/
def mul {M} [CommMagma M] : Sym2 M → M := Sym2.lift ⟨fun i j => (i * j), fun _ _ => mul_comm _ _⟩
```
?

Comment (mans0954) [reply Mathlib/Data/Sym/Sym2.lean:791]: And:
```
@[simp]
lemma mul_sym2Mk {R} [CommMagma R] (xy : R × R) :
    mul (.mk xy) = xy.1 * xy.2 := rfl
```

File: Mathlib/Data/Sym/Sym2.lean [hunk 4]
```diff
@@ -777,4 +778,20 @@ instance [Nontrivial α] : Nontrivial (Sym2 α) :=
...
 
+lemma smul {α R N} [SMul R N] (f : { f : α → α → R // ∀ a₁ a₂, f a₁ a₂ = f a₂ a₁ })
+    (g : { g : α → α → N // ∀ a₁ a₂, g a₁ a₂ = g a₂ a₁ }) :
+    lift f • lift g = lift ⟨f.val • g.val, fun _ _ => by
+      rw [Pi.smul_apply', Pi.smul_apply', Pi.smul_apply', Pi.smul_apply', f.prop, g.prop]⟩ := by
+  ext ⟨i,j⟩
+  simp_all only [Pi.smul_apply', lift_mk]
+
+/--
+`CommMagma.toMul.mul` as a function from `Sym2`.
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Sym2.lean:789]:
```suggestion
Multiplication as a function from `Sym2`.
```

File: Mathlib/Data/Sym/Sym2.lean [hunk 5]
```diff
@@ -777,4 +778,20 @@ instance [Nontrivial α] : Nontrivial (Sym2 α) :=
 unsafe instance [Repr α] : Repr (Sym2 α) where
   reprPrec s _ := f!"s({repr s.unquot.1}, {repr s.unquot.2})"
 
+lemma smul {α R N} [SMul R N] (f : { f : α → α → R // ∀ a₁ a₂, f a₁ a₂ = f a₂ a₁ })
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Sym2.lean:781]:
```suggestion
lemma lift_smul_lift {α R N} [SMul R N] (f : { f : α → α → R // ∀ a₁ a₂, f a₁ a₂ = f a₂ a₁ })
```

File: Mathlib/Data/Sym/Sym2.lean [hunk 6]
```diff
@@ -777,4 +778,20 @@ instance [Nontrivial α] : Nontrivial (Sym2 α) :=
...
+    (g : { g : α → α → N // ∀ a₁ a₂, g a₁ a₂ = g a₂ a₁ }) :
+    lift f • lift g = lift ⟨f.val • g.val, fun _ _ => by
+      rw [Pi.smul_apply', Pi.smul_apply', Pi.smul_apply', Pi.smul_apply', f.prop, g.prop]⟩ := by
+  ext ⟨i,j⟩
+  simp_all only [Pi.smul_apply', lift_mk]
+
+/--
+Multiplication as a function from `Sym2`.
+-/
+def mul {M} [CommMagma M] : Sym2 M → M := lift ⟨fun i j => (i * j), fun _ _ => mul_comm _ _⟩
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Sym2.lean:791]:
```suggestion
def mul {M} [CommMagma M] : Sym2 M → M := lift ⟨(· * ·), mul_comm⟩
```

File: Mathlib/Data/Sym/Sym2.lean [hunk 7]
```diff
@@ -777,4 +778,20 @@ instance [Nontrivial α] : Nontrivial (Sym2 α) :=
...
+  simp_all only [Pi.smul_apply', lift_mk]
+
+/--
+Multiplication as a function from `Sym2`.
+-/
+def mul {M} [CommMagma M] : Sym2 M → M := lift ⟨(· * ·), mul_comm⟩
+
+@[simp]
+lemma mul_mk {M} [CommMagma M] (xy : M × M) :
+    mul (.mk xy)   = xy.1 * xy.2 := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Sym2.lean:795]:
```suggestion
    mul (.mk xy) = xy.1 * xy.2 := rfl
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by TwoFX — COMMENTED** [review]
bors r+
